US04117128
2-n-Butyl-3-(4-hydroxyphenylsulfonyl)benzofuran (1.5 g., 0.0045 mol.) was dissolved in 40 ml. of dry acetone containing 2.5 g. (0.018 mol.) of potassium carbonate and 2.46 g. (0.018 mol.) of epibromohydrin. The mixture was refluxed for ca. 16 hours then filtered. The solvent and excess epibromohydrin were removed in vacuo to give 2-n-butyl-3-[4-(2,3-epoxypropoxy)phenylsulfonyl]benzofuran.

reactant | 2-n-Butyl-3-(4-hydroxyphenylsulfonyl)benzofuran | 0.0045 mol, 1.5 g | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2 | C18H18O4S
reactant | potassium carbonate | 0.018 mol | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 0.018 mol | C(Br)C1CO1 | C3H5BrO
solvent | acetone | 2.5 g | CC(=O)C | C3H6O
product | 2-n-butyl-3-[4-(2,3-epoxypropoxy)phenylsulfonyl]benzofuran | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCC1CO1)C=CC=C2 | C21H22O5S
